US04229448
7.4 g of a potassium salt of 5-hydroxy-2-methylpyridine, 8.5 g of p-bromotoluene and 500 mg of a copper powder were suspended in 25 ml of dimethylformamide, and the mixture was allowed to react in a nitrogen gas stream at 130° C. for 14 hours under stirring. The reaction mixture was diluted with 70 ml of methanol and filtered. The filtrate was immediately concentrated, and to the residue was added 150 ml of chloroform. The mixture was washed with 100 ml of a 0.01 N aqueous sodium hydroxide solution, whereby the unreacted 5-hydroxy-2-methylpyridine shifted to the aqueous layer. The chloroform layer was washed with water, dried with anhydrous sodium sulfate and immediately dried to obtain 8.9 g of oily 5-(p-methylphenoxy)-2-methylpyridine.

reactant | potassium | 7.4 g | [K] | K
reactant | 5-hydroxy-2-methylpyridine | OC=1C=CC(=NC1)C | C6H7NO
reactant | p-bromotoluene | 8.5 g | BrC1=CC=C(C=C1)C | C7H7Br
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | methanol | 70 ml | CO | CH4O
catalyst | copper | 500 mg | [Cu] | Cu
product | 5-(p-methylphenoxy)-2-methylpyridine | 8.9 g | CC1=CC=C(OC=2C=CC(=NC2)C)C=C1 | C13H13NO
